US07701129B2
Synthesis of 6-bromonaphthalene-1,4-dicarboxylic-acid diethyl ester
Naphthalene-1,4-dicarboxylic-acid diethyl ester 35.0 g was dissolved in a mixed solvents 280 ml of methylene chloride and concentrated sulfuric acid (weight ratio 3:7), and N-bromo succinimide 22.9 g was added here at a room temperature. After stirring overnight, the reaction mixture was poured into ice, and extracted with ethyl acetate. The extracted solution was washed with diluted alkaline water, subsequently with water, and then dried by magnesium sulfate. The solution was concentrated, and treaded with column processing (silica gel/chloroform), and 28.0 g of a crude product of 6-bromonaphthalene-1,4-dicarboxylic-acid diethyl ester was obtained.

reactant | Naphthalene-1,4-dicarboxylic-acid diethyl ester | 35.0 g | C(C)OC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OCC | C16H16O4
reactant | N-bromo succinimide | 22.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 280 ml | C(Cl)Cl | CH2Cl2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-bromonaphthalene-1,4-dicarboxylic-acid diethyl ester | C(C)OC(=O)C1=CC=C(C2=CC(=CC=C12)Br)C(=O)OCC | C16H15BrO4
